US07071151B2
To a 0° C. solution of 9.7 g (0.050 mol) of 3-(2,4-dihydroxyphenyl)but-2-enoic acid in 500 mL of anhydrous tetrahydrofuran (THF) is added 10.3 g (0.050 mol) of 1,3-dicyclohexylcarbodiimide (DCC). After stirring for 10 min, 6.8 g (0.050 mol) of 1-hydroxybenzotriazole (HOBt), 5.5 g (0.045 mol) of phenethyl alcohol and 1.1 g (0.009 mol) of 4-(dimethylamino)pyridine (DMAP) is added and stirred at 0° C. for 1 h, warmed to 22° C. and stirred for an additional 72 h. The mixture is cooled to 0° C., filtered and the solvent is removed under vacuum. The residue is diluted with ethyl acetate and washed three times with saturated sodium bicarbonate, followed by 10% citric acid and brine. The organic layer is dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum to give (E)-3-(2,4-dihydroxyphenyl)-but-2-enoic acid phenethyl ester as a yellow oil that is purified by flash chromatography.

reactant | 3-(2,4-dihydroxyphenyl)but-2-enoic acid | 0.050 mol, 9.7 g | OC1=C(C=CC(=C1)O)C(=CC(=O)O)C | C10H10O4
reactant | 1,3-dicyclohexylcarbodiimide | 0.050 mol, 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 0.050 mol, 6.8 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | phenethyl alcohol | 0.045 mol, 5.5 g | C(CC1=CC=CC=C1)O | C8H10O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 0.009 mol, 1.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (E)-3-(2,4-dihydroxyphenyl)-but-2-enoic acid phenethyl ester | C(CC1=CC=CC=C1)OC(\C=C(/C)\C1=C(C=C(C=C1)O)O)=O | C18H18O4
